US05248446
12.(1) Synthesis of 4-(2-methylbutoxy)phenol
Into a n-butanol suspension containing 37 mmol (9.0 g) of 2-methylbutyl p-toluenesulfonate prepared by tosylating S-(-)-2-methylbutanol and 74 mmol (8.2 g) of hydroquinone, added dropwise was a solution of 50 mmol (2.1 g) of sodium hydroxide dissolved in a solvent mixture of 3 ml of water and 10 ml of n-butanol. After conclusion of the dropping, the mixture was then stirred for 8 hours at 120° C. After addition of water, the reaction solution was extracted with ether, and the extracted solution was dried and concentrated. The concentrate was purified by column chromatography, to obtain 4.8 g of the objective ether compound. (Yield: 72%)

reactant | 2-methylbutyl p-toluenesulfonate | 37 mmol, 9.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(CC)C)C | C12H18O3S
reactant | hydroquinone | 74 mmol, 8.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium hydroxide | 50 mmol, 2.1 g | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 4-(2-methylbutoxy)phenol | Yield: 72% | CC(COC1=CC=C(C=C1)O)CC | C11H16O2
